US07060818B2
Sodium Difluoromalonate
Sodium hydroxide (0.90 g, 0.022 mol) was dissolved in 5 mL water followed by dilution with 25 mL ethanol and the solution was heated to 60° C. Diethyl difluoromalonate (2 g, 0.01 mol) was then added to the stirred reaction mixture. A white precipitate formed immediately. The mixture was stirred for another 45 min while maintaining the temperature at 60° C. The fine white precipitate was collected and dried at 45° C. for 18 h. Yield 1.84 g (99%).

reactant | Sodium hydroxide | 0.022 mol, 0.90 g | [OH-].[Na+]
reactant | ethanol | 25 mL | C(C)O | C2H6O
reactant | Diethyl difluoromalonate | 0.01 mol, 2 g | FC(C(=O)OCC)(C(=O)OCC)F | C7H10F2O4
solvent | water | 5 mL | O | H2O
product | Sodium Difluoromalonate | FC(C(=O)[O-])(C(=O)[O-])F.[Na+].[Na+] | InChI=1S/C3H2F2O4.2Na/c4-3(5,1(6)7)2(8)9;;/h(H,6,7)(H,8,9);;/q;2*+1/p-2
